US07553854B2
Synthesis Of 4-{2-[(1-Methylcarbamoyl-cyclohexylmethyl)-amino]-benzooxazol-6-yloxy}-pyridine-2-carboxylic acid methylamide (Table 2, Compound 112)
To a solution of 1-{[6-(2-methylcarbamoyl-pyridin-4-yloxy)-benzooxazol-2-ylamino]-methyl}-cyclohexanecarboxylic acid (1 eq) in DMF was added DIPEA (3 eq) and [dimethylamino-([1,2,3]triazolo[4,5-b]pyridin-3-yloxy)-methylene]-dimethyl-ammonium hexafluoro phosphate (1 eq). This was stirred at room temperature for 2 hours, then a 2 M solution of methylamine in THF (5 eq) was added and allowed to react overnight at 70° C. The mixture was diluted with ethyl acetate and washed twice with a saturated aqueous solution of ammonium chloride and once with brine, then dried with anhydrous sodium sulfate, filtered and concentrated, then purified by preparatory reverse phase HPLC. MH+=438.1.

reactant | 1-{[6-(2-methylcarbamoyl-pyridin-4-yloxy)-benzooxazol-2-ylamino]-methyl}-cyclohexanecarboxylic acid | 1 eq | CNC(=O)C1=NC=CC(=C1)OC1=CC2=C(N=C(O2)NCC2(CCCCC2)C(=O)O)C=C1 | C22H24N4O5
reactant | DIPEA | 3 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | [dimethylamino-([1,2,3]triazolo[4,5-b]pyridin-3-yloxy)-methylene]-dimethyl-ammonium hexafluoro phosphate | 1 eq | F[P-](F)(F)(F)(F)F.CN(C)C(ON1N=NC=2C1=NC=CC2)=[N+](C)C
reactant | methylamine | CN | CH5N
reactant | THF | 5 eq | C1CCOC1 | C4H8O
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-{2-[(1-Methylcarbamoyl-cyclohexylmethyl)-amino]-benzooxazol-6-yloxy}-pyridine-2-carboxylic acid methylamide | CNC(=O)C1=NC=CC(=C1)OC1=CC2=C(N=C(O2)NCC2(CCCCC2)C(NC)=O)C=C1 | C23H27N5O4
